Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
"I just felt dizzy. I'm medically cleared."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Briefly, pt is a ___ homeless woman w/ hx chronic psychosis, 
s/p
numerous psychiatric hospitalizations, recently d/c'd from
___ on ___, ___ client, unclear PMHx, brought in
by EMS after found blocking ___ drive-thru. Interview
___ by pt hostility and verbal aggression.

Per ED eval, collateral from outpt case worker significant for
concerning hx med noncompliance, recent decompensation in the
setting of missing Haldol Decanoate injection which was due on
___ (pt received it in the ED). 

Per BEST, patient has prior diagnosis of schizophrenia with
numerous psychiatric hospitalizations. Last evaluated on ___
when she presented to CCS with depression and SI due to her
"numerous medical problems;" CCS course unknown at this time. 

Per CHA discharge summary, patient was admitted from 
___
for apparent similar presentation. Hospitalization notable for
generally guarded, irritable affect with minimal engagement with
the treatment team. Patient was started on oral Haldol titrated
up to 15 mg po qd with unclear benefit; she was noted to be
intermittently polite at times while more irritable and 
demanding
at other times. Received Haldol Decanoate on ___.

On unit interview, Ms ___ is a ___ F who refuses to 
participate, yelling and is provocative.
 
Past Medical History:
None
 
Social History:
___
Family History:
Pt denies.
 
Physical Exam:
VITALS from ___: 98, 90/54, 80, 16, 97% RA; pt refused vitals
today and yesterday
General: middle aged white female, lying in bed with covers to
chin
HEENT: oropharnyx clear
Neck: supple with full ROM, no meningismus, no LAD
CV: RRR, no murmurs
Lungs: CTAB, breathing comfortably
Abdomen: soft, mild suprapubic tenderness to palpation, no other
abdominal tenderness, ND, +BS; few small macules inferior to
umbilicus
Back: no midline tenderness to palpation, no CVAT bilaterally
Ext: no ___ edema
Neuro: grossly intact
Skin: no rashes other than finding on abd per above; no evidence
of cellulitis
MSK: no red hot or swollen joints in ___
Psych: initially guarded and refused to answer questions and be
examined, but later became compliant with questions and exam

NEUROPSYCHIATRIC EXAMINATION:
-APPEARANCE: somewhat disheveled white female, appears stated 
age
-BEHAVIOR: no gesticulation; confrontational/aggressive body
language and posturing; no involuntary movement or tremor;
aggressive demeanor
-MOOD AND AFFECT: "fuck you"/congruent with mood; angry; labile
-THOUGHT PROCESS: unable to assess due to pt refusal to
participate in interview
-THOUGHT CONTENT: unable to assess due to pt refusal to
participate in interview. not responding to internal stimuli.
refuses to accept this reporter as physician, states to nurse
that she is "not a real nurse"
-INSIGHT / JUDGMENT: poor/poor

COGNITION: unable to assess due to pt refusal to participate in
interview
-Speech: elevated volume, increased rate. tense/irritated and
terse cadence, prosody, and intonation
-Language: Native ___ speaker
 
Pertinent Results:
___ 11:41AM   GLUCOSE-94 UREA N-9 CREAT-0.7 SODIUM-140 
POTASSIUM-3.6 CHLORIDE-104 TOTAL CO2-28 ANION GAP-12
___ 11:41AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:41AM   WBC-7.3 RBC-4.55 HGB-14.7 HCT-42.8 MCV-94 
MCH-32.2* MCHC-34.3 RDW-13.3
___ 11:41AM   NEUTS-63.7 ___ MONOS-5.9 EOS-1.5 
BASOS-0.9
___ 11:41AM   PLT COUNT-169
 
Brief Hospital Course:
----Psychiatric

#Schizophrenia
On admission, the patient presented with disorganization, 
irritability, and poor self-care. This was in the context of 
lack of follow up with outpatient treatment and missing her last 
haldol decanoate injection. Per collateral from the patient's 
community team, this was a typical presentation for the 
patient's decompensation when noncompliant with her medication. 
A copy of the patient's ___ (8b) was obtained and the patient 
was continued on Haldol 5mg po TID. She was given an initial 
injection of IM haldol decanoate in the ED prior to admission. 
The patient preferred to be continued on IM haldol decanoate 
rather than po. She was loaded 100mg injections x3 during her 
hospitalization. With this, her affect and disorganization 
improved. She became more pleasant, was less intrusive with 
peers and staff, her ADLs improved, and she was more 
redirectible. Her outpatient case manager and treatment team 
were contacted for collateral information and coordination of 
care. Upon discharge, the patient had no SI/HI, no A/VH, no 
overt delusions, no paranoia, no LOA, and her affect was 
brighter. Aftercare plan is to follow up with her psychiatrist 
at the ___ for monthly haldol injections.

----Medical
There were no active medical issues.
 
----Psychosocial

#Groups/Milieu
Pt was encouraged to participate in unit’s groups/milieu/therapy 
opportunities. The patient, however, was initially too intrusive 
and irritable with peers and staff and remained from groups. She 
was initially on more frequent checks and improved to q15 min 
checks as her disorganization became better. There were no 
safety problems while on the unit.

----Legal Status 
Patient was admitted on a ___ and later signed a CV. She 
remained on such throughout the remainder of the admission. 
Patient does has ___ guardianship which needs review on 
___ per collateral from her ___ case worker.

----Risk Assessment
Ms. ___ remains at moderate chronic risk of inability to care 
for herself in the community due to her chronic mental illness, 
race, and age. These are complicated by her homelessness, 
unemployment, h/o poor med compliance, and lack of follow up 
with outpatient treaters. However, during her admission, she was 
restarted on her medication regimen, she was connected back with 
her outpatient treatment team, and positively is connected with 
a community team who follows her long term. She also has had 
improved self-care and disorganization with reinitiation of her 
medications. Her acute risk at this time is such that she no 
longer requires inpatient psychiatric hospitalization and the 
least restrictive setting for her care at this time is 
outpatient management.
 
----Disposition
Home. Follow up with the ___ Clinic/___.
 
Medications on Admission:
None
 
Discharge Medications:
1. Haloperidol Decanoate 100 mg IM MONTHLY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I- Schizophrenia
Axis II- Deferred
Axis III- None
Axis IV- Homeless, unemployed

 
Discharge Condition:
VSS
MSE:
  *Appearance: Caucasian woman, wearing a sweatshirt, hospital 
gown, and pants 
  *Behavior: more cooperative, good eye contact, no pmr/pma, no 
abnl mvts
  *Mood and Affect: 'I'm good'; pleasant, reactive, full range
  *Thought process: linear, no LOA
  *Thought Content: no overt delusions/hallucinations. No SI/HI. 
No A/VH
  *Judgment and Insight: Poor/Poor
  Cognition:
    *Attention, *orientation, and executive function: Alert,
oriented to person/place
    *Memory: Poor recent/remote memory
    *Speech: Nl R/R/T, no pressured speech
    *Language: no paraphrasic errors

 
Discharge Instructions:
During your admission at ___, you were diagnosed with 
schizophrenia and treated included medication with haldol.
Please follow up with all outpatient appointments as listed.
Please continue all medications as directed.
Please avoid abusing alcohol and any drugs--whether prescription 
drugs or illegal drugs--as this can further worsen your medical 
and psychiatric illnesses.
Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
Please call ___ or go to your nearest emergency room if you feel 
unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you and we wish you the 
best of health.
If you need to talk to a ___ Staff Member regarding issues of 
your hospitalization, please call ___
 
Followup Instructions:
___